datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(Oc1ccccc1C)C(=O)[O-:10].CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n+:21]([H:20])cn1C>>CCC(Oc1ccccc1C)C(=O)[O:10][H:20].CC[C@H](C(=O)[O-])[C@H](CO)Cc1c[n:21]cn1C 10=20;20,21=21",
"C1C[NH2+]C[NH:10]C1.CC(=O)N1CS(=O)(=O)CC1C(=O)[O:21][H:20]>>C1C[NH2+]C[NH+:10]([H:20])C1.CC(=O)N1CS(=O)(=O)CC1C(=O)[O-:21] 10=20;20,21=21",
"Cc1c(Br)cccc1C(=O)[O:21][H:20].[O-]c1cncc[n:10]1>>Cc1c(Br)cccc1C(=O)[O-:21].[O-]c1cncc[n+:10]1[H:20] 10=20;20,21=21",
"COc1nc2ccccc2c[n:10]1.Cc1ccc2c(c1)cc1cc(C)ccc1[n+:21]2[H:20]>>COc1nc2ccccc2c[n+:10]1[H:20].Cc1ccc2c(c1)cc1cc(C)ccc1[n:21]2 10=20;20,21=21",
"C/C(N)=[S+:21]\[H:20].CCOC(=O)c1ccc[n:10]c1>>CC(N)=[S:21].CCOC(=O)c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(C[NH2:10])cc1OC>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(C[NH2+:10][H:20])cc1OC 10=20;20,21=21",
"CC#CC(=O)[O-:10].c1nc2c(ccc3c4c(c[n+:21]([H:20])c32)CCCC4)c2c1CCCC2>>CC#CC(=O)[O:10][H:20].c1nc2c(ccc3c4c(c[n:21]c32)CCCC4)c2c1CCCC2 10=20;20,21=21",
"CCCCCC[N:10](CCCCCC)c1ccccc1.Nc1[nH]cc([O:21][H:20])[nH+]1>>CCCCCC[N+:10](CCCCCC)(c1ccccc1)[H:20].Nc1[nH]cc([O-:21])[nH+]1 10=20;20,21=21",
"C[N:10]1CC=CC1c1cccnc1.Cc1cc2c(cc1[NH2+:21][H:20])Sc1cc([NH+](C)C)ccc1N2>>C[N+:10]1([H:20])CC=CC1c1cccnc1.Cc1cc2c(cc1[NH2:21])Sc1cc([NH+](C)C)ccc1N2 10=20;20,21=21",
"[H:20][NH+:21]1CCOCC1.C[N+]1=CC=C(C=C1)[CH-:10]C(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)C(=O)C2=CC=CC=C2.C1COCC[NH:21]1 10=20;20,21=21",
"CC(=NO)C(=O)[N-:10]O.CC(=O)CC(=O)[O:21][H:20]>>CC(=NO)C(=O)[N:10](O)[H:20].CC(=O)CC(=O)[O-:21] 10=20;20,21=21",
"CC[N:10](CC)CCOCCN(C)C.NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2+:21][H:20])C(=O)O>>CC[N+:10](CC)(CCOCCN(C)C)[H:20].NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2:21])C(=O)O 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>CCCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"Brc1ccc([O-:10])cc1.C=C1[C@@H]2CC3C4[C@]56C7[C@H](C[C@]3([C@H]1OC(C)=O)[C@@]5(O)C2)[N+:21]4([H:20])C[C@]7(C)C[C@@H](OC(C)=O)[C@@H]6OC(C)=O>>Brc1ccc([O:10][H:20])cc1.C=C1[C@@H]2CC3C4[C@]56C7[C@H](C[C@]3([C@H]1OC(C)=O)[C@@]5(O)C2)[N:21]4C[C@]7(C)C[C@@H](OC(C)=O)[C@@H]6OC(C)=O 10=20;20,21=21",
"CC(C)(C)OOCC(=O)[O:21][H:20].Nc1ccccc1[NH2:10]>>CC(C)(C)OOCC(=O)[O-:21].Nc1ccccc1[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc(C[NH2:10])c([N+](=O)[O-])c1.O=C([O-])c1ccc(O)c2c1ccc[n+:21]2[H:20]>>COc1ccc(C[NH2+:10][H:20])c([N+](=O)[O-])c1.O=C([O-])c1ccc(O)c2c1ccc[n:21]2 10=20;20,21=21",
"C=C(C)C(=O)OCC[N+:21](C(C)C)(C(C)C)[H:20].O=S(=O)(C(F)(F)I)[NH-:10]>>C=C(C)C(=O)OCC[N:21](C(C)C)C(C)C.O=S(=O)(C(F)(F)I)[NH:10][H:20] 10=20;20,21=21",
"CCSC(C)[O-:10].C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CCSC(C)[O:10][H:20].C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"CC=C1C[N:10]2CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.NC(=O)CCC(N)C(=O)[O:21][H:20]>>CC=C1C[N+:10]2([H:20])CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.NC(=O)CCC(N)C(=O)[O-:21] 10=20;20,21=21",
"CCCC(C)C1(CC)C(=O)NC(=O)[N-:10]C1=O.CCOc1cccc(C(=O)[O:21][H:20])c1C>>CCCC(C)C1(CC)C(=O)NC(=O)[N:10]([H:20])C1=O.CCOc1cccc(C(=O)[O-:21])c1C 10=20;20,21=21",
"CCCCCCCCCc1c([O:21][H:20])n[nH]c1-c1ccccc1.Nc1c2c(nc[n+]1[O-])nc[n-:10]2>>CCCCCCCCCc1c([O-:21])n[nH]c1-c1ccccc1.Nc1c2c(nc[n+]1[O-])nc[n:10]2[H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CCOC(=O)c1ccc2ccccc2c1)[H:20].CN(C1=[N:10]CCCO1)c1ccccc1>>CC[N:21](CC)CCOC(=O)c1ccc2ccccc2c1.CN(C1=[N+:10]([H:20])CCCO1)c1ccccc1 10=20;20,21=21",
"CC(O)C[NH:10]CCO.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(O)C[NH+:10](CCO)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(O)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(O)C[NH2+:10][H:20] 10=20;20,21=21",
"CN1CCC(=O)[N-:10]C1=O.O=C1C=C(O)c2ccc([O:21][H:20])cc2O1>>CN1CCC(=O)[N:10]([H:20])C1=O.O=C1C=C(O)c2ccc([O-:21])cc2O1 10=20;20,21=21",
"Cc1cc([C@@H]([NH3+])CO)c([O-:10])c([C@@H]([NH3+])CO)c1.NC(=O)C#CC#C/C=C/C(=O)[O:21][H:20]>>Cc1cc([C@@H]([NH3+])CO)c([O:10][H:20])c([C@@H]([NH3+])CO)c1.NC(=O)C#CC#C/C=C/C(=O)[O-:21] 10=20;20,21=21",
"CCCCC([NH3+])C(=O)[O:21][H:20].O=C([O-])CCCCCCCCCC[NH2:10]>>CCCCC([NH3+])C(=O)[O-:21].O=C([O-])CCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"FC(F)(F)c1[nH]c2cncnc2[n+:21]1[H:20].Oc1c(I)cc(Cl)c2ccc[n:10]c12>>FC(F)(F)c1[nH]c2cncnc2[n:21]1.Oc1c(I)cc(Cl)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"C[N+:21]1([H:20])C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.O=C([O-])c1ccc([NH-:10])c2cccnc12>>C[N:21]1C[C@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.O=C([O-])c1ccc([NH:10][H:20])c2cccnc12 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.Cc1c[n+:21]([H:20])c2c(ccc3c(C)ccnc32)c1C>>CC1CCCC(C)(C)[NH+:10]1[H:20].Cc1c[n:21]c2c(ccc3c(C)ccnc32)c1C 10=20;20,21=21",
"CC(C)(C)c1ccc(SCC(=O)[O:21][H:20])cc1.O=C(N[O-:10])c1cccc2ccccc12>>CC(C)(C)c1ccc(SCC(=O)[O-:21])cc1.O=C(N[O:10][H:20])c1cccc2ccccc12 10=20;20,21=21",
